US08791123B2
Step F: Preparation of 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)-N—((R)-1,1,1-trifluoropropan-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
To a mixture of 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (10.0 mg, 0.028 mmol), (R)-1,1,1-trifluoropropan-2-amine (6.33 mg, 0.056 mmol) and HATU (10.5 mg, 0.045 mmol) in dry DMF (0.2 mL) was added DIEA (15.0 μL, 0.084 mmol). The reaction vessel was flushed with nitrogen, sealed, and the reaction stirred at ambient temperature for 16 hours. The reaction mixture was directly purified by reverse phase column chromatography (0-50% CH3CN/H2O) to provide the title compound (6.50 mg, 51% yield) as a white solid. MS (apci) m/z=453.0 (M+H).

reactant | 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.028 mmol, 10.0 mg | FC=1C=C(C=NC1)[C@@H]1N([C@@H](CC1)CO)C1=NC=2N(C=C1)N=CC2C(=O)O | C17H16FN5O3
reactant | (R)-1,1,1-trifluoropropan-2-amine | 0.056 mmol, 6.33 mg | FC([C@@H](C)N)(F)F | C3H6F3N
reactant | HATU | 0.045 mmol, 10.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.084 mmol, 15.0 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)-N—((R)-1,1,1-trifluoropropan-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 6.50 mg, 51% yield | FC=1C=C(C=NC1)[C@@H]1N([C@@H](CC1)CO)C1=NC=2N(C=C1)N=CC2C(=O)N[C@@H](C(F)(F)F)C | C20H20F4N6O2
